### ISSUE TITLE
§3.5: Variable h clobbered in an example

### ISSUE THREAD

**Issue by darijgr** [avigad/mathematics_in_lean_source#326]
One of the early examples in §3.5 is:
```
example : x < |y| → x < y ∨ x < -y := by
  rcases le_or_gt 0 y with h | h
  · rw [abs_of_nonneg h]
    intro h; left; exact h
  · rw [abs_of_neg h]
    intro h; right; exact h
```
The `intro h` tactic here introduces a new hypothesis `h`, rendering the original `h` inaccessible. While this is allowed and harmless in this case (the original `h` is not necessary any more), I wonder if this is (1) good style and (2) worth a comment.

The same scenario is repeated in subsequent variants of this example.
